US06087380
2-[2-(4-amidinophenyl)ethyl]-3-methyl-6-(2-carboxy-2,3-dihydroindol-1-yl-carbonyl)-imidazo[4,5-b]pyridine-hydrochloride
Prepared analogously to Example 2 from 2-[2-(4-amidinophenyl)ethyl]-3-methyl-6-(2-methoxycarbonyl-2,3-dihydroindol-1-yl-carbonyl)-imidazo[4,5-b]pyridine-hydrochloride and sodium hydroxide solution. Yield: 90% of theory, C26H24N6O3 (468.52) Rf value: 0.24 (silica gel; ethyl acetate/ethanol/ammonia =50:45:5)

reactant | 2-[2-(4-amidinophenyl)ethyl]-3-methyl-6-(2-methoxycarbonyl-2,3-dihydroindol-1-yl-carbonyl)-imidazo[4,5-b]pyridine-hydrochloride | Cl.C(N)(=N)C1=CC=C(C=C1)CCC1=NC=2C(=NC=C(C2)C(=O)N2C(CC3=CC=CC=C23)C(=O)OC)N1C
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate ethanol ammonia | C(C)(=O)OCC.C(C)O.N
product | 2-[2-(4-amidinophenyl)ethyl]-3-methyl-6-(2-carboxy-2,3-dihydroindol-1-yl-carbonyl)-imidazo[4,5-b]pyridine-hydrochloride | Yield: 90% | Cl.C(N)(=N)C1=CC=C(C=C1)CCC1=NC=2C(=NC=C(C2)C(=O)N2C(CC3=CC=CC=C23)C(=O)O)N1C | InChI=1S/C26H24N6O3.ClH/c1-31-22(11-8-15-6-9-16(10-7-15)23(27)28)30-19-12-18(14-29-24(19)31)25(33)32-20-5-3-2-4-17(20)13-21(32)26(34)35;/h2-7,9-10,12,14,21H,8,11,13H2,1H3,(H3,27,28)(H,34,35);1H
